US07847101B2
5-Methyl-4-[6-(4-methylpiperazin-1-ylmethyl)-benzothiazol-2-yl]-2H-pyrazol-3-ylamine (574-36D):
The title compound (9 mg) was prepared starting from 20 mg of 4-(6-bromomethylbenzothiazol-2-yl)-5-methyl-2H-pyrazol-3-ylamine and excess 1-methylpiperazine. MS (m/z, ES+): 343.1 (M+1, 20%), 244.1 (M-CH3N(CH2)4N+1, 100%).

reactant | 4-(6-bromomethylbenzothiazol-2-yl)-5-methyl-2H-pyrazol-3-ylamine | 20 mg | BrCC1=CC2=C(N=C(S2)C2=C(NN=C2C)N)C=C1 | C12H11BrN4S
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 5-Methyl-4-[6-(4-methylpiperazin-1-ylmethyl)-benzothiazol-2-yl]-2H-pyrazol-3-ylamine | 9 mg | CC=1C(=C(NN1)N)C=1SC2=C(N1)C=CC(=C2)CN2CCN(CC2)C | C17H22N6S
